US07119122B2
(3-Methoxy-2-propylbenzyl)-dimethylamine (1.51 g, 7.28 mmol) was suspended in 30% hydrogen bromide/acetic acid (10 mL) and heated to reflux with stirring for 20 h. The cooled reaction mixture was triturated and decanted with successive portions of diethyl ether (4×), then triturated with diethyl ether overnight. The solid was collected by filtration, washed with ether and dried to give 3-dimethylaminomethyl-2-propylphenol hydrobromide (1.58 g, 79%) as a tan solid.

reactant | (3-Methoxy-2-propylbenzyl)-dimethylamine | 7.28 mmol, 1.51 g | COC=1C(=C(CN(C)C)C=CC1)CCC | C13H21NO
reactant | hydrogen bromide acetic acid | 10 mL | Br.C(C)(=O)O
product | 3-dimethylaminomethyl-2-propylphenol hydrobromide | 1.58 g, 79% | Br.CN(C)CC=1C(=C(C=CC1)O)CCC | InChI=1S/C12H19NO.BrH/c1-4-6-11-10(9-13(2)3)7-5-8-12(11)14;/h5,7-8,14H,4,6,9H2,1-3H3;1H
